US05969139
Reaction of 3-amino-5,5-dimethyl-2-cyclohexen-1-one with 4-chloro-3-phenoxybenzaldehyde in an analogous manner to that described in Example 1 gave 9-(4-chloro-3-phenoxyphenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. Crystallization from dimethylformamide/water gave a yellow crystalline solid of melting point 246-248° C.

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 4-chloro-3-phenoxybenzaldehyde | ClC1=C(C=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9ClO2
product | 9-(4-chloro-3-phenoxyphenyl)-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | ClC1=C(C=C(C=C1)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O)OC1=CC=CC=C1 | C29H30ClNO3
